US04831151
2.38 g (8.2 mmol) of 1-amino-2-ethyl-3-(3,3-dimethyl-2-oxobutyl)imidazolium bromide are dissolved in 30 ml of glacial acetic acid, whereupon the solution is treated with 1.22 g (8.2 mmol) of p-dimethylaminobenzaldehyde. After stirring at room temperature 48 hours the product is recrystallized by the addition of ether, chromatographed on 20 g of silica gel (particle size 0.063-0.200 mm) while eluting with methylene chloride/methanol (19:1 v/v) and recrystallized from ethanol/ether. There is obtained 1-[[4-(dimethylamino)benzylidene]amino]-2-ethyl-3-(pivaloylmethyl)imidazolium bromide of melting point 188°-189°.

reactant | 1-amino-2-ethyl-3-(3,3-dimethyl-2-oxobutyl)imidazolium bromide | 8.2 mmol, 2.38 g | [Br-].N[N+]1=C(N(C=C1)CC(C(C)(C)C)=O)CC
reactant | p-dimethylaminobenzaldehyde | 8.2 mmol, 1.22 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-[[4-(dimethylamino)benzylidene]amino]-2-ethyl-3-(pivaloylmethyl)imidazolium bromide | [Br-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)CC(C(C)(C)C)=O)CC)C=C1)C | InChI=1S/C20H29N4O.BrH/c1-7-19-23(15-18(25)20(2,3)4)12-13-24(19)21-14-16-8-10-17(11-9-16)22(5)6;/h8-14H,7,15H2,1-6H3;1H/q+1;/p-1
